*$
* INA163
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA163
* Date: 14FEB2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS177D - NOVEMBER 2000 - REVISED MAY 2005
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* 1. Updated PSpice symbol.
* 2. Updated Pin order.
*
* Final 1.0 : 
* Release to Web
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    CLOSED LOOP BANDWIDTH
*    SLEW RATE
*    INPUT VOLTAGE NOISE WITH 1/F
*    INPUT CURRENT NOISE WITH 1/F
*    CMRR
*    PSRR
*    VREF FUNCTION
*    GAIN EQUATION
*    OUTPUT SWING VS CURRENT
*    OUTPUT CURRENT IS DRAWN THROUGH SUPPLY RAILS
*    OUTPUT IMPEDANCE
*    INPUT CAPACITANCE
*    INPUT BIAS CURRENT
*    QUIESCENT CURRENT
*****************************************************************************
* PINOUT ORDER VO1 RG1 VIN- VIN+ V- SEN VO REF V+ RG- VO2
* PINOUT ORDER  1   3   4    5    6  8   9  10 11  12  14
*****************************************************************************
.SUBCKT INA163 5 4 11 6 9 10 8 3 12 1 14
*****************************************************************************
C6 25 29 1E-12 
C7 26 30 1E-12 
C8 27 31 0.5E-12 
C9 38 0 30E-12 
C10 37 0 10E-12 
C11 40 0 3.33E-12 
C12 52 0 15E-12 
C13 36 0 2E-12 
C14 16 0 2P 
C26 24 36 0.4E-12 
C27 67 71 1E-12 
C28 68 72 1E-12 
C29 69 73 0.5E-12 
C30 80 0 30E-12 
C31 79 0 10E-12 
C32 82 0 3.33E-12 
C33 94 0 15E-12 
C34 78 0 2E-12 
C35 58 0 2P 
C36 66 78 0.4E-12 
C37 112 116 6E-9 
C38 113 117 6E-9 
C39 114 118 30E-9 
C40 127 0 300P 
C41 124 0 100P 
C42 129 0 120E-12 
C43 141 0 5E-12 
C44 123 0 1.5E-12 
C45 144 0 2E-12 
C46 109 123 0.4E-12 
D7 18 0 DIN 
D8 19 0 DIN 
D9 22 0 DVN 
D10 23 0 DVN 
D11 44 21 DD 
D12 20 45 DD 
D13 46 0 DD 
D14 47 48 DD 
D15 48 49 DD 
D16 24 55 DV 
D17 56 24 DV 
D18 4 55 DV 
D19 56 4 DV 
D22 60 0 DIN 
D23 61 0 DIN 
D24 64 0 DVN 
D25 65 0 DVN 
D26 86 63 DD 
D27 62 87 DD 
D28 88 0 DD 
D29 89 90 DD 
D30 90 91 DD 
D31 66 97 DV 
D32 98 66 DV 
D33 5 97 DV 
D34 98 5 DV 
D35 9 11 DD 
D36 6 9 DD 
D37 103 0 DIN 
D38 104 0 DIN 
D39 107 0 DVS 
D40 108 0 DVS 
D41 133 106 DD 
D42 105 134 DD 
D43 135 0 DD 
D44 136 137 DD 
D45 137 138 DD 
D46 109 146 DV 
D47 147 109 DV 
D48 111 146 DV 
D49 147 111 DV 
E2 20 0 6 0 1
E3 21 0 11 0 1
E4 24 3 22 23 0.15
E5 25 0 21 0 1
E6 26 0 20 0 1
E7 27 0 28 0 1
E10 35 4 31 0 1
E11 34 35 30 0 -0.005005
E12 36 34 29 0 -0.005005
E15 39 40 41 0 1
E16 40 42 41 0 1
E17 43 0 40 0 1
E18 50 0 36 0 0.999
E20 47 43 41 0 1
E21 49 43 41 0 -1
E22 32 0 4 0 1
E23 33 0 24 0 1
E24 62 0 6 0 1
E25 63 0 11 0 1
E26 66 12 64 65 0.15
E27 67 0 63 0 1
E28 68 0 62 0 1
E29 69 0 70 0 1
E30 76 77 72 0 0.005
E31 78 76 71 0 0.005
E32 81 82 83 0 1
E33 82 84 83 0 1
E34 85 0 82 0 1
E35 92 0 78 0 0.999
E36 89 85 83 0 1
E37 91 85 83 0 -1
E38 77 5 73 0 1
E39 74 0 5 0 1
E40 75 0 66 0 1
E41 105 0 6 0 1
E42 106 0 11 0 1
E43 109 110 107 108 10.4
E44 112 0 106 0 1
E45 113 0 105 0 1
E46 114 0 115 0 1
E47 121 122 117 0 0.2
E48 123 121 116 0 0.2
E49 128 129 130 0 1
E50 129 131 130 0 1
E51 132 0 129 0 1
E52 139 0 123 0 0.999
E53 136 132 130 0 1
E54 138 132 130 0 -1
E55 122 111 118 0 0.5
E56 119 0 111 0 1
E57 120 0 109 0 1
E58 145 0 141 0 0.999
F1 48 0 V14 -0.18
F2 90 0 V24 -0.18
F3 137 0 V34 -0.25
G2 4 24 18 19 5.4E-4
G3 38 0 40 0 0.1
G4 37 0 38 0 0.1
G5 5 66 60 61 5.4E-4
G6 80 0 82 0 0.1
G7 79 0 80 0 0.1
G8 111 109 103 104 2.9E-13
G9 127 0 129 0 0.1
G10 124 0 127 0 0.1
I8 0 18 0.1E-3
I9 0 19 0.1E-3
I10 0 22 0.1E-3
I11 0 23 0.1E-3
I13 21 17 1E-3
I14 15 20 1E-3
I15 0 46 1E-3
I16 0 4 2E-6
I17 0 24 -0.4E-6
I18 0 60 0.1E-3
I19 0 61 0.1E-3
I20 0 64 0.1E-3
I21 0 65 0.1E-3
I23 63 59 1E-3
I24 57 62 1E-3
I25 0 88 1E-3
I26 0 5 2E-6
I27 0 66 -0.4E-6
I28 0 103 0.1E-3
I29 0 104 0.1E-3
I30 0 107 0.1E-3
I31 0 108 0.1E-3
I32 11 6 7E-3
I33 106 101 1E-3
I34 99 105 1E-3
I35 0 135 1E-3
I36 0 111 2E-12
I37 0 109 -0.4E-12
L1 54 1 4E-9 
L2 52 53 5E-9 
L3 96 14 4E-9 
L4 94 95 5E-9 
L5 144 9 4E-9 
L6 145 142 5E-9 
Q17 6 15 16 QOP 
Q21 11 17 16 QON 
Q22 20 37 17 QDP 
Q23 21 37 15 QDN 
Q24 6 57 58 QOP 
Q25 11 59 58 QON 
Q26 62 79 59 QDP 
Q27 63 79 57 QDN 
Q28 6 99 100 QOP 
Q29 11 101 102 QON 
Q30 105 124 125 QDP 
Q31 106 124 126 QDN 
R30 25 29 1E3 
R31 26 30 1E3 
R32 27 31 1E3 
R33 0 29 0.1 
R34 0 30 0.1 
R35 0 31 0.1 
R36 28 32 1E3 
R37 28 33 1E3 
R38 0 38 10 
R39 0 37 10 
R40 48 40 330 
R41 0 48 30E6 
R42 50 51 35 
R43 16 54 7 
R45 54 1 40 
R47 52 53 400 
R76 0 41 1E9 
R77 34 36 1E9 
R78 35 34 1E9 
R79 4 35 1E9 
R80 3 24 1E9 
R81 42 40 1E9 
R82 40 39 1E9 
R84 3 1 3.015E3 
R88 67 71 1E3 
R89 68 72 1E3 
R90 69 73 1E3 
R91 0 71 0.1 
R92 0 72 0.1 
R93 0 73 0.1 
R94 70 74 1E3 
R95 70 75 1E3 
R96 0 80 10 
R97 0 79 10 
R98 90 82 330 
R99 0 90 30E6 
R100 92 93 35 
R101 58 96 7 
R102 96 14 40 
R103 94 95 400 
R104 0 83 1E9 
R105 76 78 1E9 
R106 77 76 1E9 
R107 5 77 1E9 
R108 12 66 1E9 
R109 84 82 1E9 
R110 82 81 1E9 
R112 12 14 3E3 
R115 6 11 1E6 
R116 112 116 1E4 
R117 113 117 1E4 
R118 114 118 1E4 
R119 0 116 1 
R120 0 117 1 
R121 0 118 1 
R122 115 119 1E3 
R123 115 120 1E3 
R124 0 127 10 
R125 0 124 10 
R126 137 129 418 
R127 0 137 3E6 
R128 139 140 50 
R129 143 144 20 
R130 144 9 40 
R131 145 142 400 
R132 0 130 1E9 
R133 121 123 1E9 
R134 122 121 1E9 
R135 111 122 1E9 
R136 110 109 1E9 
R137 131 129 1E9 
R138 129 128 1E9 
R140 110 8 6E3 
R142 1 110 6E3 
R143 111 14 6E3 
R144 10 111 6.003E3 
R145 143 102 50 
R146 100 143 5 
R147 125 101 50 
R148 99 126 5 
V11 42 45 1.85
V12 44 39 1.6
V13 41 46 -0.71465
V14 51 53 0
V15 21 55 3.3
V16 56 20 3.3
V18 52 24 0
V21 84 87 1.85
V22 86 81 1.6
V23 83 88 -0.71465
V24 93 95 0
V25 63 97 3.3
V26 98 62 3.3
V28 94 66 0
V31 131 134 1.85
V32 133 128 1.6
V33 130 135 -0.71465
V34 140 142 0
V35 106 146 1.13
V36 147 105 1.13
V38 141 109 0
.MODEL QON NPN VAF=150 BF=80 IKF=0.5 RE=1 RC=1
.MODEL QOP PNP VAF=150 BF=80 IKF=0.5 RE=1 RC=1
.MODEL QDP PNP
.MODEL QDN NPN
.MODEL DD D
.MODEL DV D RS=10E3
.MODEL DVN D KF=2E-17
.MODEL DIN D KF=8E-17
.MODEL DVS D KF=6.5E-17
.ENDS INA163
*
