* INA193
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: INA193
* Date: 10/23/13
* Model Type: All In One
* Simulator: TINA-TI
* Simulator Version: Allegro CIS 16.2, w/Pspice Plug-In 16.2
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SBOS307F –MAY 2004–REVISED FEBRUARY 2010
*
* Model Version: 2.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
* Version 2.0 : New model
*
*****************************************************************************
*****************************************************************************
*SUBCKT INA193 VOUT GND Vin+ Vin- Vs 
*PINOUT ORDER    1   2   3    4    5
.SUBCKT INA193 1 2 3 4 5 
V2          37 38 1U
V4          2 52 400M
V1          VDD 68 150M
IS1         4 2 9U
VCCVS3_in   39  2 
HCCVS3      40 2 VCCVS3_in   1
C3          39 41 530.5U 
R3          39 41 1 
EVCVS7      41 2 IN+_Commonmode 2  1U
VCCVS4_in   42 2 
HCCVS4      43 2 VCCVS4_in   1
EVCVS9      44 2 VDD 2  5.6234U
C4          44 42 1.5915M 
R9          44 42 1 
XU25        43 2 45 46 VCVS_LIMIT_0
VCCCS1_in   47  2 
FCCCS1      CL_clamp 2 VCCCS1_in   -1
C2          48 47 500N 
R8          48 47 R_RES_1 1 
EVCVS1      48 2 49 2  1
R7          1 50 R_RES_1 22 
XU8         IN+_Commonmode 51 37 IN+_Commonmode VCVS_LIMIT_1
C17         53 2 1P  
C19         2 54 1P  
R26         55 54 1 
R25         56 53 1 
R6          57 CL_clamp 10M 
SW2         57 55 54 2  S_VSWITCH_1
SW1         56 57 2 53  S_VSWITCH_2
XU22        58 Vimon 56 2 VCVS_LIMIT_2
XU21        52 Vimon 55 2 VCVS_LIMIT_2
EVCVS5      58 2 Vclim 2  1K
XU10        VDD 2 Vclim 2 VCCS_LIMIT_0
EVCVS6      46 2 59 51  1
L4          60 61 150U  
R11         62 63 R_RES_1 1MEG 
EVCVS4      62 2 1 2  1
XU3         63 2 5 2 VCCS_LIMIT_1
GVCCS4      5 2 Vimon 2  1M
EVCVS3      VDD 2 5 2  1
R1          Vclp 2 1T 
C1          49 2 1N  
C7          50 2 58P  
R15         64 61 628.3 
R13         65 49 R_RES_1 440 
EVCVS8      65 2 66 2  1
XR103       2 67 RNOISE_FREE_0
XU13        67 66 0 66 VCCS_LIMIT_2
C6          66 0 500N  
R12         66 0 R_RES_1 10K 
XU12        59 38 noise_macro_0
XU23        Vimon 2 68 Vclp VCVS_LIMIT_3
XU11        CL_clamp 2 64 2 VCVS_LIMIT_4
R5          CL_clamp 2 R_RES_1 1 
EVCVS2      69 2 Vclp 2  1
VCCVS1_in   61 1
HCCVS1      Vimon 0 VCCVS1_in   1K
ROUT        64 60 R_RES_1 1.5 
R4          4 51 R_RES_1 1U 
R2          3 IN+_Commonmode R_RES_1 1U 
XU2         40 2 45 70 VCVS_LIMIT_5
XU26        70 2  2  67 69 VCCS_LIMIT_3
.MODEL R_RES_1 RES ( TCE=0 T_ABS=-300)
.MODEL S_VSWITCH_1 VSWITCH (RON=1 ROFF=1T VON=10 VOFF=-10)
.MODEL S_VSWITCH_2 VSWITCH (RON=1 ROFF=1T VON=10 VOFF=-10)

.ENDS INA193
**************
.SUBCKT VCCS_LIMIT_0  VC+ VC- VOUT+ VOUT-            
.PARAM GAIN = 5.5E-3
.PARAM IPOS = 27.5M
.PARAM INEG = 0
ESAT 1 0 VALUE={-54.54E-6*(TEMP) + 0.02981}
EOUT VOUT+ VOUT- VALUE={LIMIT((-23E-6*(TEMP) + 0.00859)*V(VC+,VC-) + (0.00003419*(TEMP) - 12.024E-3), V(1,0),INEG)}
.ENDS VCCS_LIMIT_0
****************
.SUBCKT VCCS_LIMIT_1  VC+ VC- IOUT+ IOUT-             
.PARAM GAIN = 0.05E-3
.PARAM IPOS = .5
.PARAM INEG = -.5 
E1 1 0 VALUE={LIMIT(1.25M+1M*V(VC+,VC-),1.5M,1.25M)}
E2 2 1 VALUE={LIMIT(.14358M*V(VC+,VC-) - .035875M,5M,0)}
R 2 0 1M
G1 IOUT+ IOUT- VALUE={V(2,0)}
.ENDS VCCS_LIMIT_1
**************
.SUBCKT VCCS_LIMIT_2  VC+ VC- IOUT+ IOUT-            
.PARAM GAIN = 1.25
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),IPOS,INEG)}
.ENDS VCCS_LIMIT_2
**************
.SUBCKT VCCS_LIMIT_3  VC+ VC- IOUT+ IOUT- VSAT            
.PARAM GAIN = 20U
.PARAM IPOS = 18U
.PARAM INEG = 0
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),V(VSAT,0)*1U,INEG)}
.ENDS VCCS_LIMIT_3
**************
.SUBCKT VCVS_LIMIT_0  VC+ VC- VOUT+ VOUT-           
.PARAM GAIN = 1
.PARAM VPOS = 20M
.PARAM VNEG = -20M
E1 VOUT+ VOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),VPOS,VNEG)}
.ENDS VCVS_LIMIT_0 
**************
.SUBCKT VCVS_LIMIT_1  VC+ VC- VOUT+ VOUT-          
.PARAM GAIN = 50
.PARAM VPOS = 6M
.PARAM VNEG = 0
E1 VOUT+ VOUT- VALUE={LIMIT(-.725*V(VC+,VC-)+(15M-79.78U),15M-79.48U,.5M-79.48U)}
*E2 VOUT- 1  VALUE={LIMIT(0.0045*V(VC+,VC-)-0.09E-3,.38M,0)}
.ENDS VCVS_LIMIT_1
**************
.SUBCKT VCVS_LIMIT_2  VC+ VC- VOUT+ VOUT-            
.PARAM GAIN = 1000
.PARAM VPOS = 5000
.PARAM VNEG = -5000
E1 VOUT+ VOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),VPOS,VNEG)}
.ENDS VCVS_LIMIT_2 
**************
.SUBCKT VCVS_LIMIT_3  VC+ VC- VOUT+ VOUT-             
.PARAM GAIN = 10.6M
.PARAM VPOS = 2
.PARAM VNEG = 0
*E1 VOUT+ 1 VALUE={LIMIT((0.2343E-3*(TEMP) +78.46E-3)*V(VC+,VC-),VPOS,VNEG)}
E1 VOUT+ 1 VALUE={LIMIT((0.1696E-3*(TEMP) +48.786E-3)*V(VC+,VC-),VPOS,VNEG)}
*E2 VOUT+ VOUT- VALUE={(0.5+0.5*TANH((V(VC+,VC-)-17.5)*10E12))*LIMIT(EXP(0.3*(V(VC+,VC-)-17.5)),5,0)}
E2 1 VOUT- VALUE={LIMIT(EXP(.5*(V(VC+,VC-)-(-.051515*(TEMP)+24.94))),(V(VOUT+,0)-2),0)}
*(0.5+0.5*TANH((V(VC+,VC-)-17.5)*10E8))*
.ENDS VCVS_LIMIT_3
**************
.SUBCKT VCVS_LIMIT_4  VC+ VC- VOUT+ VOUT-          
.PARAM GAIN = 1
.PARAM VPOS = 18
.PARAM VNEG = 4M
E1 VOUT+ VOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),VPOS,VNEG)}
.ENDS VCVS_LIMIT_4
**************
.SUBCKT VCVS_LIMIT_5  VC+ VC- VOUT+ VOUT-            
.PARAM GAIN = -1
.PARAM VPOS = 20M
.PARAM VNEG = -20M
E1 VOUT+ VOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),VPOS,VNEG)}
.ENDS VCVS_LIMIT_5 
**************
.SUBCKT noise_macro_0 + -
EVCVS1      + - 71 0  1
R1          71 0 R_RES_1 96.3K 
.MODEL R_RES_1 RES ( TCE=0 T_ABS=25)
.ENDS
***************
.SUBCKT RNOISE_FREE_0  1 2
*ROHMS = VALUE IN OHMS OF NOISELESS RESISTOR
.PARAM ROHMS=1E6
ERES 1 3 VALUE = { I(VSENSE) * ROHMS }
RDUMMY 30 3 1
VSENSE 30 2 DC 0V
.ENDS RNOISE_FREE_0 
***************
